.subckt NAND2IN node_out node_a node_b vdd gnd

    Mn1 node_out node_a node_y gnd CMOSN W = {wn1} L = {ln1}
    + AS = {5*wn1*LAMBDA} PS = {10*LAMBDA + 2*wn1} AD = {5*wn1*LAMBDA} PD = {10*LAMBDA + 2*wn1}

    Mn2 node_y node_b gnd gnd CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}


    Mp1 node_out node_a vdd vdd CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}

    Mp2 node_out node_b vdd vdd CMOSP W = {wp2} L = {lp2}
    + AS = {5*wp2*LAMBDA} PS = {10*LAMBDA + 2*wp2} AD = {5*wp2*LAMBDA} PD = {10*LAMBDA + 2*wp2}

.ends NAND2IN